US07759387B2
(2-Ethoxycarbonylmethoxy-4-formyl-phenoxy)-acetic acid ethyl ester
3,4-Dihydroxy-benzaldehyde was treated with 2-bromo-acetic acid ethyl ester in the presence of K2CO3 and processed as described in the synthesis of example 20a. The crude product was purified using flash chromatography (silica gel, 30-50% EtOAc in PE 60-80° C.). Yield, 87%; mp, 56° C. (EtOAc-PE 60-80° C.); MS (EI): 310 (, 237, 163, 149; analysis: C15H18O7, 0.5H2O requires C, 56.37; H, 5.95; found: C, 56.72; H, 5.79%.

reactant | 3,4-Dihydroxy-benzaldehyde | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | 2-bromo-acetic acid ethyl ester | C(C)OC(CBr)=O | C4H7BrO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | (2-Ethoxycarbonylmethoxy-4-formyl-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)C=O)OCC(=O)OCC)=O | C15H18O7
